US07695999B2
Dry DMSO (dimethyl sulfoxide) (132 mmol, 9.4 ml) and 69 ml of dry CH2Cl2 were charged into a three-necked reaction vessel in an inert gas atmosphere, and cooled to −60° C. with an acetone/liquid nitrogen bath. To the mixture, 119 mmol (16.5 ml) of anhydrous trifluoroacetic acid was slowly added dropwise with the liquid temperature being kept at −60° C. and the resultant solution was stirred for 10 minutes. Then, to the resultant mixture, 6,13-dihydro-15,16-dihydroxy-6,13-ethanopentacene (3.81 mmol, 1.29 g) dissolved in a minimum amount of dry DMSO was slowly added dropwise, and the resultant solution was stirred for 15 hours. Triethylamine (275 mmol, 20.7 ml) was added dropwise into the solution while maintaining the liquid temperature at −60° C., which was then stirred for 1.5 hours. The reaction solution was slowly poured into 2M HCl (200 ml) and was extracted with CH2Cl2. The resultant organic layer was washed with ion-exchanged water and saturated saline, dried over anhydrous sodium sulfate and then concentrated under reduced pressure to give a crude product, which was then added with ethyl acetate. Insoluble matter was collected by filtration to give 6,13-dihydro-6,13-ethanopentacene-15,16-dione.

reactant | trifluoroacetic acid | 119 mmol, 16.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 6,13-dihydro-15,16-dihydroxy-6,13-ethanopentacene | 3.81 mmol, 1.29 g | OC1C(C2C=3C=C4C=CC=CC4=CC3C1C1=CC3=CC=CC=C3C=C21)O | C24H18O2
reactant | Triethylamine | 275 mmol, 20.7 ml | C(C)N(CC)CC | C6H15N
reactant | HCl | 2M, 200 ml | Cl | ClH
solvent | DMSO | CS(=O)C | C2H6OS
solvent | DMSO | 132 mmol, 9.4 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | CH2Cl2 | 69 ml | C(Cl)Cl | CH2Cl2
product | 6,13-dihydro-6,13-ethanopentacene-15,16-dione | C1=CC=CC2=CC=3C4C5=CC6=CC=CC=C6C=C5C(C3C=C12)C(C4=O)=O | C24H14O2
